US07956054B2
1-(6-Bromopyridin-3-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester
Ethyl 3-n-propylpyrazole-5-carboxylate (1.7 g, 9.1 mmol), 2-bromo-5-bromomethylpyridine (4.6 g, 9.1 mmol) and potassium carbonate (1.8 g, 12.7 mmol) were dissolved in DMF (70.0 mL, 904 mmol). The resulting suspension was stirred at room temperature overnight. The material was diluted with aqueous. NaHCO3 and diethyl ether. The aqueous layer was further extracted with diethyl ether. The combined organics were dried over MgSO4, filtered and concentrated. The residue was purified using flash chromatography [1st 30:1 hexanes/EtOAc; 2nd 10:1 hexanes/EtOAc]. The two isomers were separated and analyzed by NMR and NOE: 1-(6-bromopyridin-3-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester (1.2 g) and 2-(6-bromopyridin-3-ylmethyl)-5-propyl-2H-pyrazole-3-carboxylic acid ethyl ester.

reactant | Ethyl 3-n-propylpyrazole-5-carboxylate | 9.1 mmol, 1.7 g | C(CC)C1=NNC(=C1)C(=O)OCC | C9H14N2O2
reactant | 2-bromo-5-bromomethylpyridine | 9.1 mmol, 4.6 g | BrC1=NC=C(C=C1)CBr | C6H5Br2N
reactant | potassium carbonate | 12.7 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 904 mmol, 70.0 mL | CN(C)C=O | C3H7NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(6-Bromopyridin-3-ylmethyl)-5-propyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)CCC)CC=1C=NC(=CC1)Br | C15H18BrN3O2
